US06897230B2
To a solution of 5(R)-acetoxymethyl-3-(3-fluorophenyl)oxazolidin-2-one (6.33 g) in acetic acid (40 mL) was added iodine monochloride (1.91 mL), the mixture was stirred at room temperature for 18 hours, and then concentrated in vacuo. The resulting residue was dissolved with ethyl acetate, the mixture was washed with aqueous sodium hydrogencarbonate solution, 20% sodium sulfite solution and brine, dried over anhydrous sodium sulfate, filtered, and then concentrated in vacuo to give crude 5(R)-acetoxymethyl-3-(3-fluoro-4-iodophenyl)oxazolidin-2-one (9.48 g).

reactant | 5(R)-acetoxymethyl-3-(3-fluorophenyl)oxazolidin-2-one | 6.33 g | C(C)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=CC=C1)F | C12H12FNO4
reactant | iodine monochloride | 1.91 mL | ICl | ClI
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 5(R)-acetoxymethyl-3-(3-fluoro-4-iodophenyl)oxazolidin-2-one | 9.48 g | C(C)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)I)F | C12H11FINO4
